US09169254B2
Potassium nitrate (583 mg, 5.77 mmol) was added to a solution of 4-(2-mercapto-ethyl)-3,N,N-trimethyl-benzamide (514 mg, 2.30 mmol) in MeCN (23 ml) at room temperature. The mixture was cooled to −40° C., and sulfuryl chloride (1.68 M solution in dichloromethane, 3.46 ml, 5.81 mmol) was then added dropwise over 15 minutes. After stirring at −40° C. to −20° C. for 2.5 hours, the reaction mixture was diluted with dichloromethane (80 ml) and quenched with a saturated aqueous sodium bicarbonate solution (20 ml). The organic layer and the aqueous layer were separated, and the organic layer was then washed with a saturated aqueous sodium chloride solution (30 ml), dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1→1/2) to give 2-(4-dimethylcarbamoyl-2-methyl-phenyl)-ethanesulfonyl chloride as a colorless solid (491 mg, 74%).

reactant | Potassium nitrate | 5.77 mmol, 583 mg | [N+](=O)([O-])[O-].[K+]
reactant | 4-(2-mercapto-ethyl)-3,N,N-trimethyl-benzamide | 2.30 mmol, 514 mg | SCCC1=C(C=C(C(=O)N(C)C)C=C1)C | C12H17NOS
reactant | sulfuryl chloride | 5.81 mmol, 1.68 M, 3.46 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | MeCN | 23 ml | CC#N | C2H3N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 2-(4-dimethylcarbamoyl-2-methyl-phenyl)-ethanesulfonyl chloride | 491 mg, 74% | CN(C(=O)C1=CC(=C(C=C1)CCS(=O)(=O)Cl)C)C | C12H16ClNO3S
